Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Clindamycin / Vancomycin / Bactrim DS / Codeine / Phenobarbital
 
Attending: ___.
 
Chief Complaint:
right facial pain, slurred speech
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
HPI: Mr. ___ is a ___ year old right handed man with PHX HIV
and Hodgkins lymphoma in remision since ___
presenting with recurrent episodes of dysarthria and right sided
headache.   Patient states that for the past 4 months he has 
been
experiencing a dull ache that feels deep in the back of his
throat to behind his ear.  He has seen a number of doctors
regarding this and was placed on Augmentin / flonase / priolosec
for a ? of sinusitis, GERD?  He went to go see an ENT who
reportedly did a through examination of these regions but was
unable to find anything.  He states that during the past for
months he gets "flairs" of pain that have been occurring about
weekly.  basically the pain radiates up the side of his head up
into his vertex.   During this he feels like his tongue is
swollen and difficult to move and articulate his words
appropriately.  However, no word finding diffuculty, or language
problems.  He states that today at 10:30 am he went to work and
began having the pain but this time crescendo much quicker than
normal.   It was extremely intense and radiated up to the right
vertex and behind his right temples and had a throbbing quality
to it.  Again he felt like his tongue was swollen, he tried to
drink some water but this did not help.  He called his partner 
at
12 noon to come get him.  His partner states that his speech was
swollen and they brought him to the hospital at 12:30 where a
CODE stroke was called.  Currently the head pain is subsiding 
and
his speech is normalizing but continues to have some 
articulation
difficulties.   He states that this headache is not worse in any
position, valsalva, or worse with coughing.  The pain in his
neck, seems worse in the late evening, but has had no early
morning wakening.  No recent medication changes, no visual
changes with these pains.  At baseline he is blind after CMV
retinitis.  In the right eye he has light perception and the 
left
eye can make out shapes and movement.  He did have a failed 
right
corneal transplant ___ year ago.  

also he has had no trauma of his neck, collagen disease, or neck
stiffness.  No hyperlaxity of his joints.  He did have an 
episode
of lightheadness / gait instability that he had 2 weeks ago, 
that
he attributed dehydration and needing to eat something.  For the
pain he has been taking between 6 to 8 tablets of over the
counter advil per day.
.
On neuro ROS, the pt denies changes in vision, dysphagia,
tinnitus or hearing difficulty. Denies difficulties producing or
comprehending speech.  Denies focal weakness, numbness,
parasthesiae. No bowel or bladder incontinence or retention.
Denies difficulty with gait.
.
On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.
.

 
Past Medical History:
1) Hodgkin's Lymphoma: Diagnosed in ___ as stage IV. He 
underwent 6 cycles of ABVD chemotherapy which was completed in 
___. His regimen was dose-reduced due to febrile 
neutropenia despite Neupogen. He re-presented to Dr ___ in 
___ of this year, after having been away from medical 
attention for approximately one year.  He had been  
intermittently compliant with his HIV meds during the preceding 
months.  Starting in late ___ ___, ___ noted 
swelling in his L groin as well as blistering of his arms and 
legs. CT torso showed LAD in the L inguinal and L iliac chains, 
but other scattered areas of non-pathologically enlarged lymph 
nodes in bilateral axilla, mediastinum, and RP.  He underwent 
lymph node biopsy on ___. Pathology is consistent with 
recurrent Hodgkin lymphoma. He had a port placed on ___. 
Bone marrow biopsy on ___ did not reveal any lymphoma. He 
received his first dose of Doxil-BVD chemotherapy on ___.
2) HIV, diagnosed ___ VL<50, CD4 704)
3) h/o CMV retinitis, legally blind; blind in R eye
4) h/o MAC
5) h/o seizure disorder - last seizure ___
6) CRI
7) polysubstance abuse 
8) hypercholesterolemia
 
Social History:
___
Family History:
Maternal grandfather had lung cancer in his ___.  Maternal 
grandmother died of unknown cancer at ___ years old.  His mom, 
dad and sister are all alive and well.  He has no children.

 
Physical Exam:
Vitals: T:97.8  P:65  R:16 BP:164/78  SaO2:100%
eneral: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx, good temp pulses
neck: Supple, slight assemetry in cervical  lymph nodes
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, no masses or organomegaly noted.
Extremities:warm and well perfused
Skin: no rashes or lesions noted.
.
Neurologic:
-Mental Status: Alert, oriented x 3.  Able to relate history
without difficulty.  Attentive, able to name ___ backward 
without
difficulty.  Language is fluent with intact repetition and
comprehension.  Normal prosody.  There were no paraphasic 
errors.
Pt. was able to name both high and low frequency objects.  Able
to read without difficulty.  Speech was not dysarthric. Able to
follow both midline and appendicular commands. Pt. was able to
register 3 objects and recall ___ at 5 minutes.  The pt. had 
good
knowledge of current events.  There was no evidence of apraxia 
or
neglect.  Calculation was intact (answers seven quarters in
$1.75)
.
-Cranial Nerves:
I: Olfaction not tested.
II: right ___ is opacified, left scared lens, he can sense 
light
in the right eye, and movement in the left eye.
III, IV, VI: eyes are disconjugate but but full duction.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.
.
-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5
.
-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense (grossly), proprioception throughout. No
extinction to DSS.
.
-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.
.
-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on HKS bilaterally.
.
-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
absent.
 
Pertinent Results:
___ 12:45PM   ___
___ 12:45PM   PLT COUNT-186
___ 12:45PM   WBC-6.3 RBC-5.08 HGB-15.4 HCT-44.3 MCV-87 
MCH-30.3 MCHC-34.8 RDW-13.7
___ 12:45PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 12:45PM   UREA N-17
___ 12:50PM   estGFR-Using this
___ 12:50PM   CREAT-1.5*
___ 12:54PM   GLUCOSE-83 NA+-141 K+-3.8 CL--98 TCO2-30
___ 11:00PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-150 KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 11:00PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 11:00PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-POS 
cocaine-NEG amphetmn-NEG mthdone-NEG
neg stox

EKG:NSR

Radiologic Data:
NCHCT:No CT evidence of acute intracranial process

MRI neck soft tissues: IMPRESSION: No significant abnormalities 
on MRI of the neck identified. No mass lesion is seen or 
significant lymphadenopathy is seen.

MRI head:
IMPRESSION: Cavernous malformation in the right parietal region 
without acute or subacute hemorrhage with an associated 
developmental venous anomaly. No other areas of abnormal 
enhancement seen or acute infarct seen. 
 
MRA HEAD:  
The head MRA demonstrates small size of the right distal 
vertebral artery 
which could be due to slow flow or due to congenital hypoplasia. 
The proximal right vertebral artery was suspected to be abnormal 
on accompanying MRA of the neck and CTA was recommended. 
Otherwise, the MRA of the head is unremarkable. 
  
IMPRESSION: Except for small caliber of the distal right 
vertebral artery as discussed above, no other abnormalities on 
MRA of the head.

MRA neck:
IMPRESSION: Questionable irregularity of the proximal portion of 
the right 
vertebral artery. To exclude dissection, CT angiography is 
recommended. The remaining arteries are patent in the neck.

CTA neck:
IMPRESSION: Normal CTA of the neck. No evidence of dissection. 
 
Brief Hospital Course:
Neuro:
Mr. ___ was admitted to the neurology serivce on ___ due 
to right facial pain and dysarthria. His symptoms were most 
consistent with glossopharyngeal neuralgia. MRI/A head as well 
as MRI neck soft tissues were performed to exclude compressive 
lesion or vascular abnormality such as dissection. MRI head and 
neck were unremarkable. MRA showed a questionable irregularity 
of the proximal right vertebral artery; CTA was subsequently 
negative. He was started on carbamazepine 200mg BID for his 
glossopharyngeal neuralgia and also given percocet prn for 
breakthrough pain. He was also started on aspirin 81mg.

CV:
He was maintained on telemetry monitoring and continued on his 
home atorvastatin. He was also started on aspirin 81mg for 
secondary risk reduction.

Infectious disease:
He was continued on his home HIV medications. He developed no 
signs of infection during his admission.

Heme/onc:
MRI showed no evidence of recurrent lymphoma.

Prophylaxis:
He was maintained on SQ heparin and pneumoboots for DVT 
prophylaxis.

Dispo:
Mr. ___ was discharged home in good condition on ___. He 
will follow up with Drs. ___ in neurology 
clinic.

 
Medications on Admission:
Advil OTC - 6 - 8 tabs per day
DARUNAVIR [PREZISTA] -  (Prescribed by Other Provider) - 600 mg
Tablet - one Tablet(s) by mouth twice a day
ETRAVIRINE [INTELENCE] -  (Prescribed by Other Provider) - 100 
mg
Tablet - two Tablet(s) by mouth twice a day
atorvastatin 10 or 20 mg q day (he isn't sure)
RALTEGRAVIR [ISENTRESS] -  (Prescribed by Other Provider) - 400
mg Tablet - one Tablet(s) by mouth twice a day
RITONAVIR [NORVIR] -  (Prescribed by Other Provider) - 100 mg
Capsule - one Capsule(s) by mouth twice daily
 
Discharge Medications:
1. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
2. darunavir 600 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
3. etravirine 100 mg Tablet Sig: Two (2) Tablet PO BID (2 times 
a day).  
4. atorvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. raltegravir 400 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
6. ritonavir 100 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
7. carbamazepine 200 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day): Increase to 300mg twice a day in 2 weeks.
Disp:*60 Tablet(s)* Refills:*1*
8. Percocet ___ mg Tablet Sig: One (1) Tablet PO every four 
(4) hours as needed for pain.
Disp:*20 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Glossopharyngeal neuralgia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,
You were admitted to ___ on 
___ for severe R sided headache. We believe your symptoms are 
consistent with glossopharyngeal neuralgia. An MRI of your brain 
showed no abnormalities. A CTA to look at your blood vessels was 
normal.
 
We made the following changes to your medications:
Started Carbamazepine 200mg twice a day for your pain. In 2 
weeks you should increase your dose to 300mg twice a day.
Started Percocet for breakthrough pain

If you experience any of the below listed danger signs, please 
call your doctor or go to the nearest Emergency Department.
 
It was a pleasure taking care of you during your hospital stay.
 
Followup Instructions:
___